US07435823B2
Step (a) Preparation of 4-chloro-7-(3-chloropropoxy)-6-methoxyquinoline
To a solution of 4-chloro-6-methoxyquinolin-7-ol (5.7 g, 0.027 mole) and 1-bromo-3-chloropropane (13.2 mL, 0.14 mole) in DMF (150 mL), was added potassium carbonate (30 g, 0.27 mole). The mixture was stirred at RT for 20 h. The mixture was concentrated in vacuo then diluted with H2O (100 mL). The mixture was extracted with EtOAc (3×50 mL) and the organic extracts were washed with H2O and brine. The organic phase was dried over MgSO4, filtered, and concentrated in vacuo. The resulting residue was purified by silica gel column chromatography (5% MeOH/CH2Cl2) to yield the title compounds as a light yellow solid. MS (ESI, pos. ion) m/z: 286 (M+1). Mass Calc'd for C13H13Cl2NO2: 285.0.

reactant | 4-chloro-6-methoxyquinolin-7-ol | 0.027 mole, 5.7 g | ClC1=CC=NC2=CC(=C(C=C12)OC)O | C10H8ClNO2
reactant | 1-bromo-3-chloropropane | 0.14 mole, 13.2 mL | BrCCCCl | C3H6BrCl
reactant | potassium carbonate | 0.27 mole, 30 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 150 mL | CN(C)C=O | C3H7NO
product | 4-chloro-7-(3-chloropropoxy)-6-methoxyquinoline | ClC1=CC=NC2=CC(=C(C=C12)OC)OCCCCl | C13H13Cl2NO2
